US07504508B2
N-(4-chlorophenyl)-N-[(2S,4R)-1-(4-ethyl-3-fluorobenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide was prepared following general procedure B, substituting 4-ethyl-3-fluorobenzoyl chloride for 6-trifluoromethyl nicotinyl chloride. (4-ethyl-3-fluorobenzoyl chloride was prepared in five steps from commercially available 4-bromo-3-fluorobenzoic acid. 4-Bromo-3-fluorobenzoic acid (0.828 g, 3.8 mmol) was dissolved in 20 mL of benzene/methanol (5:1) mixture. To the above mixture was added trimethylsilyldiazomethane until the reaction showed a light yellow color. Let stir for 30 minutes and concentrate down to yield methyl 4-bromo-3-fluorobenzoate. Methyl 4-bromo-3-fluorobenzoate was dissolved in 2 mL of DMF and vinyl tributyl tin (0.431 mL, 1.5 mmol), and degassed for 5 min with nitrogen gas. To the above mixture was added Pd(PPh3)2Cl2 (0.086 g, 0.12 mmol) and heated at 80° C. with a condenser for 16 h. Cool to room temperature and dilute with ethyl acetate and wash with a 10% solution of KF in water. The mixture was allowed to stir for ˜30 min at room temperature, then filter and extract the aqueous with ethyl acetate (3×). Dry over MgSO4, filter and concentrate down. The residue was concentrated down and purified with 100% hexane to 10% ethyl acetate/90% hexane to yield 0.140 g, 63% of methyl 3-fluoro-4-vinylbenzoate. Methyl 3-fluoro-4-vinylbenzoate (0.750 g, 4.1 mmol) was reduced in the presence of Pd on carbon (10%) in ethanol to provide methyl 4-ethyl-3-fluorobenzoate (0.450 g, 59%). Methyl 4-ethyl-3-fluorobenzoate was hydrolyzed to the acid by dissolving in tetrahydrofuran and methanol and sodium hydroxide (1N) was added. The mixture was stirred at room temperature overnight. The mixture was cooled to rt, acidified to pH=5 with 1N HCl to form a white precipitate (0.270 g, 65%). The solid was filtered to give 4-ethyl-3-fluorobenzoic acid. The acid was converted to the acid chloride as described in general procedure B).

reactant | Methyl 3-fluoro-4-vinylbenzoate | 4.1 mmol, 0.750 g | FC=1C=C(C(=O)OC)C=CC1C=C | C10H9FO2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd on carbon | [Pd] | Pd
product | methyl 4-ethyl-3-fluorobenzoate | 0.450 g, 59% | C(C)C1=C(C=C(C(=O)OC)C=C1)F | C10H11FO2
